US08013008B2
benzyl (2S,3R)-3-cyclopropyl-3-hydroxy-2-methylpyrrolidine-1-carboxylate
By an operation in the same manner as in Reference Example 3 and using cerium chloride (11.1 g), 0.5 mol/L cyclopropylmagnesium bromide—THF solution (72.0 mL) and benzyl (2S)-2-methyl-3-oxopyrrolidine-1-carboxylate (3.0 g), the title compound was obtained as colorless oil (yield: 1.64 g, yield: 46%).

reactant | cerium chloride | 11.1 g | [Cl-].[Ce+3].[Cl-].[Cl-]
reactant | cyclopropylmagnesium bromide THF | 0.5 mol/L, 72.0 mL | C1(CC1)[Mg]Br.C1CCOC1
reactant | benzyl (2S)-2-methyl-3-oxopyrrolidine-1-carboxylate | 3.0 g | C[C@@H]1N(CCC1=O)C(=O)OCC1=CC=CC=C1 | C13H15NO3
product | benzyl (2S,3R)-3-cyclopropyl-3-hydroxy-2-methylpyrrolidine-1-carboxylate | C1(CC1)[C@]1([C@@H](N(CC1)C(=O)OCC1=CC=CC=C1)C)O | C16H21NO3
